US05610145
BocNH(CH2)7CO2H
Di-tert-butyl dicarbonate (1.7 g, 7.85 mmol) in dioxan (7 mL) was added dropwise over 5 minutes to a stirred solution of 8-aminocaprylic acid (1 g, 6.28 mmol) in 1N NaOH (7 mL) and dioxan (7 mL) containing Na2CO3 (0.83 g, 7.85 mmol). The resulting mixture was stirred overnight at room temperature. The mixture was diluted with water (25 mL) and the dioxan was removed in vacuo. The solution was extracted once with ether (25 mL) and the pH of the aqueous solution was then adjusted to four with 5% citric acid. The product was then extracted into ether (3×50 mL). The combined ether extracts were dried over MgSO4, filtered, and the solvent was removed in vacuo to give a white solid, 1.61 g (99% yield), mp 56° C.;

reactant | Di-tert-butyl dicarbonate | 7.85 mmol, 1.7 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
reactant | 8-aminocaprylic acid | 6.28 mmol, 1 g | NCCCCCCCC(=O)O | C8H17NO2
reactant | Na2CO3 | 7.85 mmol, 0.83 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | dioxan | 7 mL | O1CCOCC1 | C4H8O2
solvent | NaOH | 1N, 7 mL | [OH-].[Na+]
solvent | dioxan | 7 mL | O1CCOCC1 | C4H8O2
solvent | water | 25 mL | O | H2O
product | BocNH(CH2)7CO2H | 99% yield | C(=O)(OC(C)(C)C)NCCCCCCCC(=O)O | C13H25NO4
